US08466282B2
1-tert-butyl 3-methyl(3R,5S)-5-{[(benzyloxy)carbonyl]amino}piperidine-1,3-dicarboxylate
(3S,5R)-1-(tert-Butoxycarbonyl)-5-(methoxycarbonyl)piperidine-3-carboxylic acid (2.83 g) was suspended in toluene (36 ml), diphenylphosphoryl azide (2.60 ml) and triethylamine (1.70 ml) were added and the mixture was stirred at 100° C. for 1 hr. The reaction mixture was cooled to room temperature, benzyl alcohol (1.53 ml) and triethylamine (7.00 ml) were added and the mixture was stirred at 80° C. for 3 hr. The reaction mixture was concentrated, the residue was dissolved in ethyl acetate, washed with water, 0.5M hydrochloric acid and saturated brine in this order, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (1:3-3:1) was concentrated under reduced pressure to give the object product (2.79 g) as an oil.

reactant | (3S,5R)-1-(tert-Butoxycarbonyl)-5-(methoxycarbonyl)piperidine-3-carboxylic acid | 2.83 g | C(C)(C)(C)OC(=O)N1C[C@H](C[C@H](C1)C(=O)OC)C(=O)O | C13H21NO6
reactant | diphenylphosphoryl azide | 2.60 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 1.70 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl alcohol | 1.53 ml | C(C1=CC=CC=C1)O | C7H8O
reactant | triethylamine | 7.00 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | 36 ml | C1(=CC=CC=C1)C | C7H8
product | 1-tert-butyl 3-methyl(3R,5S)-5-{[(benzyloxy)carbonyl]amino}piperidine-1,3-dicarboxylate | 2.79 g | C(C1=CC=CC=C1)OC(=O)N[C@H]1C[C@H](CN(C1)C(=O)OC(C)(C)C)C(=O)OC | C20H28N2O6
